US08048877B2
1,3-Bis-(2,4,5-trifluorobenzyl)imidazolidin-2-ylideneamine (Compound 12)
The title compound was prepared in three steps as described in Procedure D. In the first step, ethylenediamine was reacted in acetonitrile with 2,4,5-trifluorobenzoylchloride (2 eq) in the presence of TEA to give the N,N′-dibenzoylated ethylenediamine upon aqueous work-up. After the last step (reaction with cyanogen bromide, performed at 200° C. for 60 min using MW heating), the precipitated solid was filtered off and recrystallized to give the title compound as the hydrogen bromide salt. MS (ES+) m/z 374 ([M+1]+, 100); HR-MS: 374.1086 ([M+1]+, C17H14F6N3; calc. 374.10919).

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 2,4,5-trifluorobenzoylchloride | 2 eq | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
reactant | acetonitrile | C(C)#N | C2H3N
product | 1,3-Bis-(2,4,5-trifluorobenzyl)imidazolidin-2-ylideneamine | FC1=C(CN2C(N(CC2)CC2=C(C=C(C(=C2)F)F)F)=N)C=C(C(=C1)F)F | C17H13F6N3
